US07592457B2
3-(4-amino-phenyl)-7-chloro-3-methyl-1H-quinoline-2,4-dione
To a solution of 7-chloro-3-methyl-3-(4-nitro-phenyl)-1H-quinoline-2,4-dione (0.98 g, 2.96 mmol) in methanol (10 mL) was added SnCl2-2H2O (2.0 g, 8.88 mmol). The resulting solution was stirred at reflux temperature overnight. After the reaction was completed, the solvent was evaporated under reduced pressure to produce pale yellow residue. The residue was diluted with 1N HCl solution (200 mL) and extracted with ethyl acetate (200 mL×3). The organic layer was washed with brine (200 ml×2) and water (200 ml×2) and dried over anhydrous MgSO4. After evaporation of the solvent, the objective compound (0.78 g, 88%) was obtained as pale yellow solid by purifying the residue with recrystallization (n-hexane:EtOAc=1:1): 1H NMR (200 MHz, CDCl3) δ 1.79 (s, 3H, CH3), 3.67 (br s, 2H, NH2), 6.57 (d, J=8.6 Hz, 2H, ArH), 6.92 (d, J=2.0 Hz, 1H, ArH), 7.03-7.09 (m, 3H, ArH), 7.83 (d, J=8.8 Hz, 1H, ArH), 9.01 (br s, 1H, NH); m.p. 155-156° C.; MS(EI) m/e 300 [M+].

reactant | 7-chloro-3-methyl-3-(4-nitro-phenyl)-1H-quinoline-2,4-dione | 2.96 mmol, 0.98 g | ClC1=CC=C2C(C(C(NC2=C1)=O)(C1=CC=C(C=C1)[N+](=O)[O-])C)=O | C16H11ClN2O4
solvent | methanol | 10 mL | CO | CH4O
solvent | HCl | 1N, 200 mL | Cl | ClH
product | 3-(4-amino-phenyl)-7-chloro-3-methyl-1H-quinoline-2,4-dione | 0.78 g, 88% | NC1=CC=C(C=C1)C1(C(NC2=CC(=CC=C2C1=O)Cl)=O)C | C16H13ClN2O2
